### PR TITLE
[Merged by Bors] - feat(SetTheory/Ordinal/Veblen): the two-arguments Veblen function

### PR DESCRIPTION
**Pull request by vihdzp**
We define the Veblen function `veblen o a` on ordinals, so that `veblen 0 a = ω ^ a` and `veblen o` enumerates the common fixed points of `veblen o'` for `o' < o`. We then prove some basic properties.

---

Split from #17802.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Ordinal/FixedPoint.lean [hunk 1]
```diff
@@ -219,6 +219,11 @@ theorem derivFamily_eq_enumOrd [Small.{u} ι] (H : ∀ i, IsNormal (f i)) :
   rw [Set.mem_iInter] at ha
   rwa [← fp_iff_derivFamily H]
 
+theorem derivFamily_strictMono [Small.{u} ι] (H : ∀ i, IsNormal (f i)) :
+    StrictMono (derivFamily f) := by
+  rw [derivFamily_eq_enumOrd H]
+  exact enumOrd_strictMono (not_bddAbove_fp_family H)
```
Comment (Command-Master) [inline Mathlib/SetTheory/Ordinal/FixedPoint.lean:225]:
```suggestion
theorem derivFamily_strictMono [Small.{u} ι] :
    StrictMono (derivFamily f) := (Ordinal.isNormal_derivFamily f).strictMono
```

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 2]
```diff
@@ -0,0 +1,308 @@
...
+defined so that
+
+- `veblenWith f 0 = f`.
+- `veblenWith f a` enumerates the fixed points of `veblenWith f b` for `b < a` when `a ≠ 0`.
+-/
+@[pp_nodot]
+def veblenWith (f : Ordinal.{u} → Ordinal.{u}) (o : Ordinal.{u}) : Ordinal.{u} → Ordinal.{u} :=
+  if o = 0 then f else derivFamily fun x : Set.Iio o ↦ veblenWith f x.1
+termination_by o
+decreasing_by exact x.2
```
Comment (Command-Master) [inline Mathlib/SetTheory/Ordinal/Veblen.lean:47]: Consider this, although it isn't truly important
```suggestion
@[pp_nodot]
def veblenWith (f : Ordinal.{u} → Ordinal.{u}) (o : Ordinal.{u}) : Ordinal.{u} → Ordinal.{u} :=
  if o = 0 then f else derivFamily fun (⟨x, _⟩ : Set.Iio o) ↦ veblenWith f x
termination_by o
```

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 3]
```diff
@@ -0,0 +1,308 @@
...
+
+theorem veblenWith_eq_veblenWith_iff (hf : IsNormal f) {a b c d : Ordinal} :
+    veblenWith f a b = veblenWith f c d ↔
+    a = c ∧ b = d ∨ a < c ∧ b = veblenWith f c d ∨ c < a ∧ veblenWith f a b = d := by
+  obtain h | rfl | h := lt_trichotomy a c
+  · simp_rw [h, h.ne, h.not_lt, false_and, false_or, or_false, true_and]
+    conv_lhs => rw [← veblenWith_veblenWith_of_lt hf h, veblenWith_inj hf]
+  · simp [veblenWith_inj hf]
+  · simp_rw [h, h.ne', h.not_lt, false_and, false_or, true_and]
+    conv_lhs => rw [← veblenWith_veblenWith_of_lt hf h, veblenWith_inj hf]
```
Comment (Command-Master) [inline Mathlib/SetTheory/Ordinal/Veblen.lean:209]: Perhaps `hf : IsNormal f` could be a `variable` here (you'd have to use `include`, I think). This could also be in the `IsNormal` namespace to allow dot notation on `hf`

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 4]
```diff
@@ -0,0 +1,308 @@
...
+    veblenWith f o a < veblenWith f o b ↔ a < b :=
+  (veblenWith_right_strictMono hf o).lt_iff_lt
+
+theorem veblenWith_le_veblenWith_right_iff (hf : IsNormal f) :
+    veblenWith f o a ≤ veblenWith f o b ↔ a ≤ b :=
+  (veblenWith_right_strictMono hf o).le_iff_le
+
+theorem veblenWith_inj (hf : IsNormal f) :
+    veblenWith f o a = veblenWith f o b ↔ a = b :=
+  (veblenWith_right_strictMono hf o).injective.eq_iff
```
Comment (Command-Master) [inline Mathlib/SetTheory/Ordinal/Veblen.lean:112]: Could you add an `injective` version of this, with conclusion `Function.Injective (veblenWith f o)`?

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 5]
```diff
@@ -0,0 +1,308 @@
...
+theorem veblen_lt_veblen_right_iff : veblen o a < veblen o b ↔ a < b :=
+  veblenWith_lt_veblenWith_right_iff isNormal_omega0_opow
+
+@[simp]
+theorem veblen_le_veblen_right_iff : veblen o a ≤ veblen o b ↔ a ≤ b :=
+  veblenWith_le_veblenWith_right_iff isNormal_omega0_opow
+
+@[simp]
+theorem veblen_inj : veblen o a = veblen o b ↔ a = b :=
+  veblenWith_inj isNormal_omega0_opow
```
Comment (Command-Master) [inline Mathlib/SetTheory/Ordinal/Veblen.lean:260]: Could you add an `injective` version of this, with conclusion `Function.Injective (veblen o)`?

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 6]
```diff
@@ -0,0 +1,308 @@
...
+    veblenWith f a b ≤ veblenWith f c d ↔
+    a = c ∧ b ≤ d ∨ a < c ∧ b ≤ veblenWith f c d ∨ c < a ∧ veblenWith f a b ≤ d := by
+  obtain h | rfl | h := lt_trichotomy a c
+  · simp_rw [h, h.ne, h.not_lt, false_and, false_or, or_false, true_and]
+    conv_lhs => rw [← veblenWith_veblenWith_of_lt hf h, veblenWith_le_veblenWith_right_iff hf]
+  · simp [veblenWith_le_veblenWith_right_iff hf]
+  · simp_rw [h, h.ne', h.not_lt, false_and, false_or, true_and]
+    conv_lhs => rw [← veblenWith_veblenWith_of_lt hf h, veblenWith_le_veblenWith_right_iff hf]
+
+theorem veblenWith_eq_veblenWith_iff (hf : IsNormal f) {a b c d : Ordinal} :
```
Comment (Command-Master) [inline Mathlib/SetTheory/Ordinal/Veblen.lean:201]: I find these theorems a bit hard to read. Could you add docstrings for them, describing the conclusion in words?

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 7]
```diff
@@ -0,0 +1,308 @@
...
+
+theorem veblen_lt_veblen_iff :
+    veblen a b < veblen c d ↔ a = c ∧ b < d ∨ a < c ∧ b < veblen c d ∨ c < a ∧ veblen a b < d :=
+  veblenWith_lt_veblenWith_iff isNormal_omega0_opow
+
+theorem veblen_le_veblen_iff :
+    veblen a b ≤ veblen c d ↔ a = c ∧ b ≤ d ∨ a < c ∧ b ≤ veblen c d ∨ c < a ∧ veblen a b ≤ d :=
+  veblenWith_le_veblenWith_iff isNormal_omega0_opow
+
+theorem veblen_eq_veblen_iff :
```
Comment (Command-Master) [inline Mathlib/SetTheory/Ordinal/Veblen.lean:304]: I find these theorems a bit hard to read. Could you add docstrings for them, describing the conclusion in words?

**Review by Command-Master — CHANGES_REQUESTED** [review]

File: Mathlib/SetTheory/Ordinal/Veblen.lean (hunk 3 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Veblen.lean:208]: I agree that having this variable makes the code cleaner. I feel like having `IsNormal.veblen` and `veblen`, or even `IsNormal.veblenWith` and `veblen`, would be somewhat confusing, though.

File: Mathlib/SetTheory/Ordinal/Veblen.lean (hunk 6 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Veblen.lean]: These theorems characterize precisely when `veblen a b` is less, less-equal, or equal to `veblen c d`. They are useful in defining the Veblen form ordinal notation, where this is used to define comparison.

File: Mathlib/SetTheory/Ordinal/Veblen.lean (hunk 3 above)
Comment (Command-Master) [reply Mathlib/SetTheory/Ordinal/Veblen.lean]: Perhaps this should be a `section`, then?

**Review by Command-Master — APPROVED** [review]

File: Mathlib/SetTheory/Ordinal/Veblen.lean (hunk 3 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Veblen.lean]: That's what I did :)

Comment (Command-Master) [reply Mathlib/SetTheory/Ordinal/Veblen.lean]: I meant only for the `IsNormal` part, but I guess it doesn't matter

**Review by b-mehta — COMMENTED** [review]
(oops, I wrote these two weeks ago and forgot to hit submit; hopefully they still make sense. Please let me know if I can clarify anything!)

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 8]
```diff
@@ -0,0 +1,308 @@
...
+    Monotone (veblenWith f o) :=
+  (veblenWith_right_strictMono hf o).monotone
+
+theorem veblenWith_lt_veblenWith_right_iff (hf : IsNormal f) :
+    veblenWith f o a < veblenWith f o b ↔ a < b :=
+  (veblenWith_right_strictMono hf o).lt_iff_lt
+
+theorem veblenWith_le_veblenWith_right_iff (hf : IsNormal f) :
+    veblenWith f o a ≤ veblenWith f o b ↔ a ≤ b :=
+  (veblenWith_right_strictMono hf o).le_iff_le
```
[the remark this answers is not in the document]
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Veblen.lean]: This makes the code longer in a few places, but it does reduce duplication, so I'll take it.

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 9]
```diff
@@ -0,0 +1,318 @@
...
+theorem veblenWith_pos (hp : 0 < f 0) (a b : Ordinal) : 0 < veblenWith f a b := by
+  have H (b) : 0 < veblenWith f 0 b := by
+    rw [veblenWith_zero]
+    exact hp.trans_le (hf.monotone (Ordinal.zero_le _))
+  obtain rfl | h := Ordinal.eq_zero_or_pos a
+  · exact H b
+  · rw [← veblenWith_veblenWith_of_lt hf h]
+    exact H _
+
+theorem veblenWith_zero_strictMono (hp : 0 < f 0) : StrictMono (veblenWith f · 0) := by
```
[the remark this answers is not in the document]
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Veblen.lean:130]: In general the function is only monotone. For example if `x = veblen 2 0` then `veblen 0 x = veblen 1 x = x`.

[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/SetTheory/Ordinal/Veblen.lean:130]: Ah, was looking at the wrong argument (cc @YaelDillies, who'd initially convinced me that strict mono should be true)

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 10]
```diff
@@ -0,0 +1,318 @@
...
+/-- `veblenWith f o` is always normal for `o ≠ 0`. -/
+theorem isNormal_veblenWith' (f : Ordinal → Ordinal) (h : o ≠ 0) : IsNormal (veblenWith f o) := by
+  rw [veblenWith_of_ne_zero f h]
+  exact isNormal_derivFamily _
+
+variable (hf : IsNormal f)
+include hf
+
+/-- `veblenWith f o` is always normal whenever `f` is. -/
+theorem isNormal_veblenWith (o : Ordinal) : IsNormal (veblenWith f o) := by
```
[the remark this answers is not in the document]
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Veblen.lean:67]: I want to keep the `veblenWith` API close to the `veblen` API, so I'll make `IsNormal.veblenWith` into an alias instead.

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 11]
```diff
@@ -0,0 +1,318 @@
...
+  · rw [← veblenWith_veblenWith_of_lt hf h]
+    exact H _
+
+theorem veblenWith_zero_strictMono (hp : 0 < f 0) : StrictMono (veblenWith f · 0) := by
+  intro a b h
+  dsimp only
+  rw [← veblenWith_veblenWith_of_lt hf h, veblenWith_lt_veblenWith_right_iff hf]
+  exact veblenWith_pos hf hp b 0
+
+theorem veblenWith_zero_lt_iff (hp : 0 < f 0) : veblenWith f a 0 < veblenWith f b 0 ↔ a < b :=
```
[the remark this answers is not in the document]
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Veblen.lean:136]: That's quite the mouthful. Do we have to specify the `left` part? That's sort of implied by the zero being on the right argument.

File: Mathlib/SetTheory/Ordinal/Veblen.lean (hunk 9 above)
[the remark this answers is not in the document]
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Veblen.lean:130]: In fact a stronger result is true - the function `veblen · k` is strictly monotonic iff `k` is not a zeta number, i.e. in the image of `veblen 2`. The function will never be normal unless `k = 0` however.

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 12]
```diff
@@ -0,0 +1,318 @@
...
+    rw [veblenWith_veblenWith_of_lt hf]
+    rw [Order.lt_succ_iff]
+    exact le_max_left _ b
+
+/-- `veblenWith f a b < veblenWith f c d` iff one of the following holds:
+* `a = c` and `b < d`
+* `a < c` and `b < veblenWith f c d`
+* `a > c` and `veblenWith f a b < d` -/
+theorem veblenWith_lt_veblenWith_iff : veblenWith f a b < veblenWith f c d ↔
+    a = c ∧ b < d ∨ a < c ∧ b < veblenWith f c d ∨ c < a ∧ veblenWith f a b < d := by
```
[the remark this answers is not in the document]
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Veblen.lean:175]: imo the docstring already does an adequate job of explaining what's going on here, so I prefer the more compact form of the theorem.

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 13]
```diff
@@ -0,0 +1,318 @@
...
+    conv_lhs => rw [← veblenWith_veblenWith_of_lt hf h, veblenWith_inj hf]
+
+end veblenWith
+
+/-! ### Veblen function -/
+
+section veblen
+
+private theorem isNormal_omega0_opow : IsNormal fun a ↦ ω ^ a := isNormal_opow one_lt_omega0
+private theorem omega0_opow_zero_pos : 0 < ω ^ (0 : Ordinal) := by simp
```
[the remark this answers is not in the document]
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Veblen.lean:216]: The actual performance difference is probably on the order of milliseconds, but it still seems like bad practice to prove the same result 15 times in a row. On another nitpicky note, using `(by simp)` means I can't use dot notation in e.g. `isNormal_veblen`.

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 14]
```diff
@@ -0,0 +1,318 @@
...
+  · simp_rw [h, h.ne', h.not_lt, false_and, false_or, true_and]
+    conv_lhs => rw [← veblenWith_veblenWith_of_lt hf h, veblenWith_inj hf]
+
+end veblenWith
+
+/-! ### Veblen function -/
+
+section veblen
+
+private theorem isNormal_omega0_opow : IsNormal fun a ↦ ω ^ a := isNormal_opow one_lt_omega0
```
[the remark this answers is not in the document]
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Veblen.lean:215]: Sure, but I think having this auxiliary theorem makes all the boilerplate a bit nicer to look at.

File: Mathlib/SetTheory/Ordinal/Veblen.lean (hunk 13 above)
[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/SetTheory/Ordinal/Veblen.lean:216]: It's actually more like the opposite - it's bad practice to have a private auxiliary theorem that doesn't need to even be its own theorem! `simp` is exactly designed to prove very basic things in general

[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/SetTheory/Ordinal/Veblen.lean:216]: And `isNormal_veblen` should work fine, you can write that as `(isNormal_opow one_lt_omega0).veblenWith o`

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 15]
```diff
@@ -0,0 +1,317 @@
...
+    rw [veblenWith_veblenWith_of_lt hf]
+    rw [Order.lt_succ_iff]
+    exact le_max_left _ b
+
+/-- `veblenWith f a b < veblenWith f c d` iff one of the following holds:
+* `a = c` and `b < d`
+* `a < c` and `b < veblenWith f c d`
+* `a > c` and `veblenWith f a b < d` -/
+theorem veblenWith_lt_veblenWith_iff : veblenWith f a b < veblenWith f c d ↔
+    a = c ∧ b < d ∨ a < c ∧ b < veblenWith f c d ∨ c < a ∧ veblenWith f a b < d := by
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Veblen.lean:175]: Please start the type of a theorem on a new line if it's going to need a line break
```suggestion
theorem veblenWith_lt_veblenWith_iff :
    veblenWith f a b < veblenWith f c d ↔
      a = c ∧ b < d ∨ a < c ∧ b < veblenWith f c d ∨ c < a ∧ veblenWith f a b < d := by
```

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 16]
```diff
@@ -0,0 +1,317 @@
...
+  · simp [veblenWith_lt_veblenWith_iff_right hf]
+  · simp_rw [h, h.ne', h.not_lt, false_and, false_or, true_and]
+    conv_lhs => rw [← veblenWith_veblenWith_of_lt hf h, veblenWith_lt_veblenWith_iff_right hf]
+
+/-- `veblenWith f a b ≤ veblenWith f c d` iff one of the following holds:
+* `a = c` and `b ≤ d`
+* `a < c` and `b ≤ veblenWith f c d`
+* `a > c` and `veblenWith f a b ≤ d` -/
+theorem veblenWith_le_veblenWith_iff : veblenWith f a b ≤ veblenWith f c d ↔
+    a = c ∧ b ≤ d ∨ a < c ∧ b ≤ veblenWith f c d ∨ c < a ∧ veblenWith f a b ≤ d := by
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Veblen.lean:188]: Same here

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 17]
```diff
@@ -0,0 +1,317 @@
...
+  · simp [veblenWith_le_veblenWith_iff_right hf]
+  · simp_rw [h, h.ne', h.not_lt, false_and, false_or, true_and]
+    conv_lhs => rw [← veblenWith_veblenWith_of_lt hf h, veblenWith_le_veblenWith_iff_right hf]
+
+/-- `veblenWith f a b = veblenWith f c d` iff one of the following holds:
+* `a = c` and `b = d`
+* `a < c` and `b = veblenWith f c d`
+* `a > c` and `veblenWith f a b = d` -/
+theorem veblenWith_eq_veblenWith_iff : veblenWith f a b = veblenWith f c d ↔
+    a = c ∧ b = d ∨ a < c ∧ b = veblenWith f c d ∨ c < a ∧ veblenWith f a b = d := by
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Veblen.lean:201]: Same here

File: Mathlib/SetTheory/Ordinal/Veblen.lean (hunk 11 above)
[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/SetTheory/Ordinal/Veblen.lean]: @YaelDillies, would like your thoughts here

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/SetTheory/Ordinal/Veblen.lean]: Won't you ever write a lemma about `veblenWith f 0 a < veblenWith f 0 b`?

[the remark this answers is not in the document]
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Veblen.lean]: Such a lemma wouldn't make sense, since `veblenWith f 0 a = f a`.

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/SetTheory/Ordinal/Veblen.lean]: Okay then `veblenWith_zero_lt_veblenWith_zero` is fine :)

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 18]
```diff
@@ -0,0 +1,320 @@
...
+Copyright (c) 2024 Violeta Hernández Palacios. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Violeta Hernández Palacios
+-/
+import Mathlib.SetTheory.Ordinal.FixedPoint
+
+/-!
+# Veblen hierarchy
+
+We define the two-argument Veblen function, which satisfes `veblen 0 a = ω ^ a` and that for
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Veblen.lean:11]:
```suggestion
We define the two-arguments Veblen function, which satisfies `veblen 0 a = ω ^ a` and that for
```

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 19]
```diff
@@ -0,0 +1,320 @@
...
+theorem veblenWith_lt_veblenWith_iff_right : veblenWith f o a < veblenWith f o b ↔ a < b :=
+  (veblenWith_right_strictMono hf o).lt_iff_lt
+
+theorem veblenWith_le_veblenWith_iff_right : veblenWith f o a ≤ veblenWith f o b ↔ a ≤ b :=
+  (veblenWith_right_strictMono hf o).le_iff_le
+
+theorem veblenWith_injective (o : Ordinal) : Function.Injective (veblenWith f o) :=
+  (veblenWith_right_strictMono hf o).injective
+
+theorem veblenWith_inj : veblenWith f o a = veblenWith f o b ↔ a = b :=
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Veblen.lean:109]: simp?

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 20]
```diff
@@ -0,0 +1,320 @@
...
+  · exact fun a ↦ hf.veblenWith a
+
+theorem veblenWith_right_strictMono (o : Ordinal) : StrictMono (veblenWith f o) :=
+  (hf.veblenWith o).strictMono
+
+theorem veblenWith_lt_veblenWith_iff_right : veblenWith f o a < veblenWith f o b ↔ a < b :=
+  (veblenWith_right_strictMono hf o).lt_iff_lt
+
+theorem veblenWith_le_veblenWith_iff_right : veblenWith f o a ≤ veblenWith f o b ↔ a ≤ b :=
+  (veblenWith_right_strictMono hf o).le_iff_le
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Veblen.lean:104]: simp?

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 21]
```diff
@@ -0,0 +1,320 @@
...
+
+theorem veblenWith_zero_lt_veblenWith_zero (hp : 0 < f 0) :
+    veblenWith f a 0 < veblenWith f b 0 ↔ a < b :=
+  (veblenWith_zero_strictMono hf hp).lt_iff_lt
+
+theorem veblenWith_zero_le_veblenWith_zero (hp : 0 < f 0) :
+    veblenWith f a 0 ≤ veblenWith f b 0 ↔ a ≤ b :=
+  (veblenWith_zero_strictMono hf hp).le_iff_le
+
+theorem veblenWith_zero_inj (hp : 0 < f 0) : veblenWith f a 0 = veblenWith f b 0 ↔ a = b :=
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Veblen.lean:144]: Can you please avoid using `a` and `b` for both the second arguments and third arguments? It's quite confusing (cf Bhavik and I being confused)
```suggestion
theorem veblenWith_zero_inj (hp : 0 < f 0) : veblenWith f o₁ 0 = veblenWith f o₂ 0 ↔ o₁= o₂ :=
```

Comment (YaelDillies) [reply Mathlib/SetTheory/Ordinal/Veblen.lean:144]: Same for other lemmas in this PR

Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Veblen.lean:144]: In truth the different arguments to the Veblen function behave somewhat similarly at a high level, as is perhaps best illustrated by the existence of a Veblen function with [transfinitely many variables](https://en.wikipedia.org/wiki/Veblen_function#Transfinitely_many_variables) `(Ordinal →₀ Ordinal) → Ordinal`. But I guess that sticking to `o` for the first variable and `a`, `b` for the second can't really hurt.

**Comment by vihdzp** [comment]
I've applied the suggested naming scheme change. I've also tried golfing the `veblen` comparison lemmas by using `cmp` and some `aesop` bruteforcing.

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 22]
```diff
@@ -0,0 +1,332 @@
...
+
+We define the two-arguments Veblen function, which satisfies `veblen 0 a = ω ^ a` and that for
+`a ≠ 0`, `veblen a` enumerates the common fixed points of `veblen b` for `b < a`.
+
+## Main definitions
+
+* `veblenWith`: The Veblen hierarchy with a specified initial function.
+* `veblen`: The Veblen hierarchy starting with `ω ^ ·`.
+
+## Todo
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Veblen.lean:19]: For consistency with other files
```suggestion
## TODO
```

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 23]
```diff
@@ -0,0 +1,332 @@
...
+
+/-! ### Veblen function with a given starting function -/
+
+section veblenWith
+
+/-- `veblenWith f o` is the `o`-th function in the Veblen hierarchy starting with `f`. This is
+defined so that
+
+- `veblenWith f 0 = f`.
+- `veblenWith f a` enumerates the common fixed points of `veblenWith f b` for `b < a` when `a ≠ 0`.
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Veblen.lean:43]:
```suggestion
- `veblenWith f o` for `o ≠ 0` enumerates the common fixed points of `veblenWith f o'` over all `o' < o`.
```

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 24]
```diff
@@ -0,0 +1,332 @@
...
+  (veblenWith_right_strictMono hf o).injective
+
+@[simp]
+theorem veblenWith_inj : veblenWith f o a = veblenWith f o b ↔ a = b :=
+  (veblenWith_injective hf o).eq_iff
+
+theorem right_le_veblenWith (o a : Ordinal) : a ≤ veblenWith f o a :=
+  (veblenWith_right_strictMono hf o).le_apply
+
+theorem veblenWith_left_monotone (o : Ordinal) : Monotone (veblenWith f · o) := by
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Veblen.lean:118]:
```suggestion
theorem veblenWith_left_monotone (a : Ordinal) : Monotone (veblenWith f · a) := by
```

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 25]
```diff
@@ -0,0 +1,332 @@
...
+        (le_max_right a.1 b).trans (Order.le_succ _)).trans ?_⟩
+    rw [veblenWith_veblenWith_of_lt hf]
+    rw [Order.lt_succ_iff]
+    exact le_max_left _ b
+
+theorem cmp_veblenWith_eq : cmp (veblenWith f o₁ a) (veblenWith f o₂ b) =
+  match cmp o₁ o₂ with
+    | .eq => cmp a b
+    | .lt => cmp a (veblenWith f o₂ b)
+    | .gt => cmp (veblenWith f o₁ a) b := by
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Veblen.lean:177]: Please start multiline return types on a new line. Also no need to indent extra the branches of a `match`
```suggestion
theorem cmp_veblenWith_eq :
    cmp (veblenWith f o₁ a) (veblenWith f o₂ b) =
      match cmp o₁ o₂ with
      | .eq => cmp a b
      | .lt => cmp a (veblenWith f o₂ b)
      | .gt => cmp (veblenWith f o₁ a) b := by
```

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 26]
```diff
@@ -0,0 +1,332 @@
...
+  veblenWith_le_veblenWith_iff_right (isNormal_opow one_lt_omega0)
+
+theorem veblen_injective (o : Ordinal) : Function.Injective (veblen o) :=
+  veblenWith_injective (isNormal_opow one_lt_omega0) o
+
+@[simp]
+theorem veblen_inj : veblen o a = veblen o b ↔ a = b :=
+  (veblen_injective o).eq_iff
+
+theorem right_le_veblen (a b : Ordinal) : b ≤ veblen a b :=
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Veblen.lean:266]:
```suggestion
theorem right_le_veblen (o a : Ordinal) : a ≤ veblen o a :=
```

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 27]
```diff
@@ -0,0 +1,332 @@
...
+end veblenWith
+
+/-! ### Veblen function -/
+
+section veblen
+
+/-- `veblen o` is the `o`-th function in the Veblen hierarchy starting with `ω ^ ·`. That is:
+
+- `veblen 0 a = ω ^ a`.
+- `veblen a` enumerates the fixed points of `veblen b` for `b < a` when `a ≠ 0`.
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Veblen.lean:223]:
```suggestion
- `veblen o` for `o ≠ 0` enumerates the fixed points of `veblen o'` for `o' < o`.
```

File: Mathlib/SetTheory/Ordinal/Veblen.lean [hunk 28]
```diff
@@ -0,0 +1,332 @@
...
+  (veblen_injective o).eq_iff
+
+theorem right_le_veblen (a b : Ordinal) : b ≤ veblen a b :=
+  right_le_veblenWith (isNormal_opow one_lt_omega0) a b
+
+theorem veblen_left_monotone (o : Ordinal) : Monotone (veblen · o) :=
+  veblenWith_left_monotone (isNormal_opow one_lt_omega0) o
+
+@[simp]
+theorem veblen_pos (a b : Ordinal) : 0 < veblen a b :=
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Ordinal/Veblen.lean:273]:
```suggestion
theorem veblen_pos (o a : Ordinal) : 0 < veblen o a :=
```
Actually, I would even make the arguments implicit (and similarly for `veblenWith_pos`)

**Review by YaelDillies — COMMENTED** [review]
You've still got a lot of `a`s that should be `o`s

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Review by b-mehta — APPROVED** [review]
Nice work, thank you!

bors merge
